US08119666B2
D. 2-Methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile
Pd2(dba)3 (764 mg, 0.834 mmol) and tricyclohexylphosphine (547 mg, 1.95 mmol) are dissolved in dioxane (50 mL) and the mixture is stirred under nitrogen for 30 min. To this is added bis(pinacolato)diboron (3.89 g, 15.3 mmol), KOAc (2.05 g, 20.9 mmol) and 2-chloro-6-methylbenzonitrile (2.10 g, 13.9 mmol). The suspension is heated in a microwave at 100° C. for 20 min. Additional KOAc (480 mg) is added. The reaction mixture is heated for an additional 20 min. at 100° C. in a microwave. The reaction mixture is diluted with toluene (100 mL) and water (50 mL). The organic phase is separated and filtered through Celite and concentrated. The brown residue is used in the next step.

reactant | tricyclohexylphosphine | 1.95 mmol, 547 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | bis(pinacolato)diboron | 15.3 mmol, 3.89 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 20.9 mmol, 2.05 g | CC(=O)[O-].[K+]
reactant | 2-chloro-6-methylbenzonitrile | 13.9 mmol, 2.10 g | ClC1=C(C#N)C(=CC=C1)C | C8H6ClN
reactant | KOAc | 480 mg | CC(=O)[O-].[K+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
catalyst | Pd2(dba)3 | 0.834 mmol, 764 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile | CC1=C(C#N)C(=CC=C1)B1OC(C(O1)(C)C)(C)C | C14H18BNO2
